US08629270B2
(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine
N-[(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (5 g, 11.5 mmol) is added to lithium hydroxide (530 mg, 12.6 mmol) in methanol (50 mL) at 22° C. The reaction mixture is refluxed for 3 hours and then cooled to 22° C. Hydrogen chloride, 2 M in water (20.3 mL) is added and then solvent is evaporated. The solution is washed with MTBE (50 mL). The aqueous solution is treated with charcoal (500 mg) and stirred 30 minutes at 22° C. The mixture is filtered over diatomaceous earth and the pH of the filtrate is adjusted to pH=9 with sodium hydroxide (2M aqueous solution). A white solid precipitates and is collected. The solid is dried under vacuum to a constant weight to give the title compound (1 g, 30%). ES/MS (m/e): 337 (M+H).

reactant | N-[(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 11.5 mmol, 5 g | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=CC=NS1 | C20H17FN6OS2
reactant | lithium hydroxide | 12.6 mmol, 530 mg | [OH-].[Li+]
reactant | Hydrogen chloride | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 20.3 mL | O | H2O
product | (4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 1 g, 30% | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C1=CC=NS1 | C13H13FN6S2
